US05359098
2-Phenyl-6-(6-piperidinylhexoxy)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 3 from 6-hydroxyflavone, 1-bromo-6-chlorohexane and piperidine: mp 176°-178° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-Phenyl-6-(6-piperidinylhexoxy)-4H-1-benzopyran-4-one hydrochloride | Cl.C1(=CC=CC=C1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCCN2CCCCC2 | InChI=1S/C26H31NO3.ClH/c28-24-20-26(21-11-5-3-6-12-21)30-25-14-13-22(19-23(24)25)29-18-10-2-1-7-15-27-16-8-4-9-17-27;/h3,5-6,11-14,19-20H,1-2,4,7-10,15-18H2;1H
